US04294960
7-[2-(2-Formamidothiazol-4-yl)-2-(2-chloroethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.8 g.), conc. hydrochloric acid (1.6 g.), methanol (27 ml.) and tetrahydrofuran (40 ml.) were treated in a similar manner to that of Example 15-(3) to give 7-[2-(2-aminothiazol-4-yl)-2-(2-chloroethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.4 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-(2-chloroethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCl | C15H14ClN5O6S2
reactant | hydrochloric acid | 1.6 g | Cl | ClH
reactant | methanol | 27 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-chloroethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCl | C14H14ClN5O5S2
